US04112095
Preparation of 3-methyl-6-[2-chloro-5-(trifluoromethyl)phenyl]-1,2,4-triazolo[4,3-b]pyridazine
As in Example 36, a mixture of 2.2 g. of 3-chloro-6-[2-chloro-5-(trifluoromethyl)phenyl]pyridazine and 1.11 g. of acetylhydrazine in 50 ml. of n-butanol is refluxed for 48 hours to give the product of the example.

reactant | 3-chloro-6-[2-chloro-5-(trifluoromethyl)phenyl]pyridazine | ClC=1N=NC(=CC1)C1=C(C=CC(=C1)C(F)(F)F)Cl | C11H5Cl2F3N2
reactant | acetylhydrazine | C(C)(=O)NN | C2H6N2O
solvent | n-butanol | C(CCC)O | C4H10O
product | 3-methyl-6-[2-chloro-5-(trifluoromethyl)phenyl]-1,2,4-triazolo[4,3-b]pyridazine | CC1=NN=C2N1N=C(C=C2)C2=C(C=CC(=C2)C(F)(F)F)Cl | C13H8ClF3N4
